US09029395B2
The same reaction was done in parallel, using of ethyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (for a preparation see Intermediate 15) (0.89 g 2.030 mmol), aluminium chloride (1.03 g, 7.72 mmol), triethylamine (3.4 mL, 24.53 mmol), DCM (16 mL) and MeOH (1.3 mL). The products of both reactions were combined at this stage and the resulting mixture was stirred at room temperature for approximately 10 min (total volume: approximately 1 L). The mixture was filtered through Celite™, the insoluble residue was washed with EtOAc and a saturated NaHCO3 aqueous solution and the layers were separated. The aqueous phase was extracted with EtOAc and the combined organic phases were washed with brine, dried (hydrophobic frit) and concentrated in vacuo to give ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (6.6 g, 84%—allowing for the addition of the parallel experiment) as a cream solid. LCMS (formate, 2 min), Retention time 0.73 min, [M-NH2]+=336

reactant | ethyl 4-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)NC(=O)OC(C)C)C | C25H30N2O5
reactant | aluminium chloride | 7.72 mmol, 1.03 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | triethylamine | 24.53 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | DCM | 16 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.3 mL | CO | CH4O
product | ethyl 4-[(2S,4R)-1-acetyl-4-amino-2-methyl-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C(=O)OCC)C=C1)N)C | C21H24N2O3
